US05286742
Preparation of 4-(2,3-Dichlorophenyl)pyrrole-3-carboxamide
A mixture of 4-(2,3-dichlorophenyl)pyrrole-3-carboxylic acid (2.43 g, 9.5 mmol) and triethylamine (7 mL, 50 mmol) in tetrahydrofuran is stirred for 15 minutes at room temperature and concentrated in vacuo to obtain a residue. A mixture of the residue, thionyl chloride (2.77 mL, 38 mmol) and N,N-dimethylformamide (0.73 mL, 9.5 mmol) is stirred overnight at room temperature and concentrated in vacuo to obtain a yellow oil. The oil is added to a concentrated ammonia solution for 1 hour. This mixture is filtered to give a solid. The solid is washed with water, dried and chromatographed using silica gel and a 4:1 hexanes/ethyl acetate mixture to obtain the title product as a white solid (1.6 g, mp 185°-190° C.).

reactant | 4-(2,3-dichlorophenyl)pyrrole-3-carboxylic acid | 9.5 mmol, 2.43 g | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C(=O)O | C11H7Cl2NO2
reactant | triethylamine | 50 mmol, 7 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 38 mmol, 2.77 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 9.5 mmol, 0.73 mL | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2,3-Dichlorophenyl)pyrrole-3-carboxamide | 1.6 g | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C(=O)N | C11H8Cl2N2O
